US09079889B2
A solution of 2-(5,5-dimethyl-3-(3-nitropyridin-4-yl)cyclohex-2-enyl)isoindoline-1,3-dione (1 eq) in acetic acid (0.1M) was purged with nitrogen for 10 min. Then 10% Pd/C (0.10 eq) was added. The reaction mixture was stirred at room temperature overnight under an atmosphere of hydrogen. Solids were removed by filtration over celite, then rinsed with EtOAc and MeOH. The filtrate was concentrated, diluted with EtOAc and washed 2× with sat. aq. 2M Na2CO3. The organic layer was dried with MgSO4, filtered, and concentrated. The residue was purified by column (5% methanol in 1:1 ethyl acetate and hexanes) to give 2-(3-(3-aminopyridin-4-yl)-5,5-dimethylcyclohex-2-enyl)isoindoline-1,3-dione (89%). LC/MS (m/z): MH+=348.3, Rt=0.79.

reactant | 2-(5,5-dimethyl-3-(3-nitropyridin-4-yl)cyclohex-2-enyl)isoindoline-1,3-dione | 1 eq | CC1(CC(=CC(C1)N1C(C2=CC=CC=C2C1=O)=O)C1=C(C=NC=C1)[N+](=O)[O-])C | C21H19N3O4
solvent | acetic acid | 0.1M | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.10 eq | [Pd] | Pd
product | 2-(3-(3-aminopyridin-4-yl)-5,5-dimethylcyclohex-2-enyl)isoindoline-1,3-dione | 89% | NC=1C=NC=CC1C1=CC(CC(C1)(C)C)N1C(C2=CC=CC=C2C1=O)=O | C21H21N3O2
